US09359286B2
To a stirred solution of diisopropylamine (19.43 mL, 136 mmol) in anhydrous tetrahydrofuran (250 mL) was added butyl lithium solution (2.5 M in hexanes, 39.4 mL, 98 mmol) dropwise at 0° C. under nitrogen. The resulting solution was stirred at the same temperature for 15 min before a solution of (S)—N-(6-iodo-3,4-dihydronaphthalen-1(2H)-ylidene)-2-(methoxymethyl)pyrrolidin-1-amine (I-8B, 29.1 g, 76 mmol) in anhydrous tetrahydrofuran (100 mL) was added dropwise. The reaction solution was stirred at 0° C. for 2 h. A solution of 1-iodohexane (22.35 mL, 151 mmol) in tetrahydrofuran (50 mL) was added dropwise at −78° C. and the mixture was stirred at the same temperature for 2 h. The temperature was raised to room temperature over 1.5 h. The reaction mixture was quenched with saturated aqueous ammonium chloride solution (50 mL) and water (50 mL). The mixture was extracted with hexanes (200 mL) and ethyl acetate (3×50 mL). The combined extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oil. The oil was dissolved in THF (200 mL). A solution of cupric chloride, dihydrate (52 g) in water (220 mL) was added at 0° C. dropwise and the mixture was vigorously stirred at room temperature overnight. Aqueous ammonia solution was added to raise the pH to approximately 9. The mixture was extracted with hexane (100 mL) and diethyl ether (2×100 mL). The combined extracts were dried over anhydrous sodium sulfate and concentrated. Flash chromatography purification (330 g silica gel column, gradient elution from 0 to 15% EtOAc in hexanes) afforded (R)-2-hexyl-6-iodo-3,4-dihydronaphthalen-1(2H)-one (21.6 g, 60.6 mmol) as a white solid containing some of the (S) isomer, which was removed in the subsequent step. LC/MS M+1=357.

reactant | diisopropylamine | 136 mmol, 19.43 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 98 mmol, 2.5 M, 39.4 mL | C(CCC)[Li]
reactant | (S)—N-(6-iodo-3,4-dihydronaphthalen-1(2H)-ylidene)-2-(methoxymethyl)pyrrolidin-1-amine | 76 mmol, 29.1 g | IC=1C=C2CCCC(C2=CC1)=NN1[C@@H](CCC1)COC | C16H21IN2O
reactant | 1-iodohexane | 151 mmol, 22.35 mL | ICCCCCC | C6H13I
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 220 mL | O | H2O
product | (R)-2-hexyl-6-iodo-3,4-dihydronaphthalen-1(2H)-one | 60.6 mmol, 21.6 g | C(CCCCC)[C@H]1C(C2=CC=C(C=C2CC1)I)=O | C16H21IO
